US08247556B2
To a solution of 1-Methanesulfonyl-3,3-dimethyl-6-nitro-2,3-dihydro-1H-indole (0.88 mg, 3.22 mmol) and AcOH (3.5 mL) in THF (100 mL) was added Zinc dust (14 g, 247 mmol) by small portion. The resulting mixture was stirred at RT for 2 h and was filtered over a Celite® pad. Solvent was evaporated and residue was diluted in CH2Cl2 and washed with NaOH 1M. The resulting organic layer was dried over MgSO4, filtered and concentrated in vacuo to give 1-Methanesulfonyl-3,3-dimethyl-2,3-dihydro-1H-indol-6-ylamine.

reactant | 1-Methanesulfonyl-3,3-dimethyl-6-nitro-2,3-dihydro-1H-indole | 3.22 mmol, 0.88 mg | CS(=O)(=O)N1CC(C2=CC=C(C=C12)[N+](=O)[O-])(C)C | C11H14N2O4S
reactant | AcOH | 3.5 mL | CC(=O)O | C2H4O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | Zinc | 247 mmol, 14 g | [Zn] | Zn
product | 1-Methanesulfonyl-3,3-dimethyl-2,3-dihydro-1H-indol-6-ylamine | CS(=O)(=O)N1CC(C2=CC=C(C=C12)N)(C)C | C11H16N2O2S
